US04661635
A solution of 45 g (0.27 mole) of 3-methoxybenzeneacetic acid, 52.6 g (0.32 mole) of iodine monochloride and 1 g of iodine was allowed to stand in 500 ml of glacial acetic acid for six days at room temperature. The reaction was poured into water and the solid collected. It was recrystallized from toluene to give 51 g of crystalline 2-iodo-5-methoxybenzeneacetic acid, mp 133.5°-134.5° C. (65% yield).

reactant | 3-methoxybenzeneacetic acid | 0.27 mole, 45 g | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
reactant | iodine monochloride | 0.32 mole, 52.6 g | ICl | ClI
reactant | water | O | H2O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
catalyst | iodine | 1 g | II | I2
product | 2-iodo-5-methoxybenzeneacetic acid | 51 g, 65% yield | IC1=C(C=C(C=C1)OC)CC(=O)O | C9H9IO3
